US05418237
A solution of 3.74 g of 3-[4-(4-phenylpiperazino)butyl]indole-5-carboxylic acid in 500 ml of DMF is treated with 1.01 g of N-methylmorpholine. A solution of one equivalent of tert-butylamine in 5 ml of DMF, 1.35 g of 1-hydroxybenzotriazole and a solution of 1.92 g of N-(3-dimethylaminopropyl-N'-ethylcarbodiimide hydrochloride in 20 ml of DMF are added with stirring. The mixture is stirred for 16 hours at 20° and the filtrate is evaporated. After working up in a conventional manner, 3-[4-(4-phenylpiperazino)butyl]indole-5-carboxylic acid N-tert-butylamide is obtained.

reactant | 3-[4-(4-phenylpiperazino)butyl]indole-5-carboxylic acid | 3.74 g | C1(=CC=CC=C1)N1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)O | C23H27N3O2
reactant | N-methylmorpholine | 1.01 g | CN1CCOCC1 | C5H11NO
reactant | tert-butylamine | one equivalent | C(C)(C)(C)N | C4H11N
reactant | 1-hydroxybenzotriazole | 1.35 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-dimethylaminopropyl-N'-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-[4-(4-phenylpiperazino)butyl]indole-5-carboxylic acid N-tert-butylamide | C(C)(C)(C)NC(=O)C=1C=C2C(=CNC2=CC1)CCCCN1CCN(CC1)C1=CC=CC=C1 | C27H36N4O
